US07618959B2
b) 6-Hydroxymethyl-4H-benzo[1,4]thiazin-3-one
3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid in tetrahydrofuran (50 mL) and triethylamine (4.7 mL) was cooled to 0° C. and isobutylchloroformate (4.02 mL) was added dropwise and the solution was stirred at 0° C. for 2 hours, when it was filtered into a stirred solution of sodium borohydride (3.14 g) in ice/water (50 mL). The mixture was stirred at 0° C. for 1 hour and allowed to warm to room temperature. It was acidified with 2M hydrochloric acid, evaporated to half volume, and the resulting product was collected, washed with water and dried in vacuo, to give a white solid (4.5 g).

reactant | 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
reactant | isobutylchloroformate | 4.02 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 4.7 mL | C(C)N(CC)CC | C6H15N
product | 6-Hydroxymethyl-4H-benzo[1,4]thiazin-3-one | 4.5 g | OCC=1C=CC2=C(NC(CS2)=O)C1 | C9H9NO2S
